US06451816B1
N-{4-[1-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-yl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide (Substance 219)
Batch size: 2.6 g (17.6 mmol) 3-(3-pyridyl)-acrylic acid, 2.6 g (20.8 mmol) oxalyl chloride and 5.57 g (16.0 mmol) 4-[1-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-yl)-piperidin-4-yl]-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 17.6 mmol, 2.6 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 20.8 mmol, 2.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[1-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-yl)-piperidin-4-yl]-butylamine | 16.0 mmol, 5.57 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)N3CCC(CC3)CCCCN | C24H32N2
product | N-{4-[1-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-yl)-piperidin-4-yl]-butyl}-3-(pyridin-3-yl)-acrylamide | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)N3CCC(CC3)CCCCNC(C=CC=3C=NC=CC3)=O | C32H37N3O
